US07304057B2
2-Amino-3-(2-chloro-ethylsulfanyl)-propionic acid hydrochloride
33.9 g of 2-amino-3-(2-hydroxy-ethylsulfanyl)-propionic acid was dissolved in 800 mL of concentrated hydrogen chloride and the solution was stirred for 7 h to obtain a buff solid. The solid was recrystallized in isopropanol to obtain a white powder (34.2 g). Yield 75.4%, mp 185-186° C.

reactant | 2-amino-3-(2-hydroxy-ethylsulfanyl)-propionic acid | 33.9 g | NC(C(=O)O)CSCCO | C5H11NO3S
reactant | hydrogen chloride | 800 mL | Cl | ClH
product | 2-Amino-3-(2-chloro-ethylsulfanyl)-propionic acid hydrochloride | 34.2 g, Yield 75.4% | Cl.NC(C(=O)O)CSCCCl | InChI=1S/C5H10ClNO2S.ClH/c6-1-2-10-3-4(7)5(8)9;/h4H,1-3,7H2,(H,8,9);1H
